US07875715B2
Intermediate 70: (2E)-3-(2,5-Difluorophenyl)prop-2-en-1-ol
A mixture of (2E)-3-(2,5-difluorophenyl)acrylic acid (1 g, 5.43 mmol) and N,N-diisopropylethylamine (1.7 mL, 9.8 mmol) in tetrahydrofuran (THF) was treated with isobutyl chloroformate (1.4 mL, 10.8 mmol) at room temperature. The reaction mixture was stirred for 30 minutes, and then filtered. The filtrate was cooled to 0° C. and 2M lithium borohydride (4.1 mL, 8.2 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 30 minutes then at room temperature for 30 minutes. Ice and 1N hydrochloric acid were added to the reaction mixture to adjust the pH to 7. The aqueous layer was extracted with ethyl acetate twice. The combined organic extracts were dried over sodium sulfate and concentrated to dryness under reduced pressure. Silica gel chromatography with hexanes/ethyl acetate (3:2) afforded desired product, 750 mg (82%).

reactant | (2E)-3-(2,5-difluorophenyl)acrylic acid | 5.43 mmol, 1 g | FC1=C(C=C(C=C1)F)/C=C/C(=O)O | C9H6F2O2
reactant | N,N-diisopropylethylamine | 9.8 mmol, 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isobutyl chloroformate | 10.8 mmol, 1.4 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | lithium borohydride | 8.2 mmol, 2M, 4.1 mL | [BH4-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2E)-3-(2,5-Difluorophenyl)prop-2-en-1-ol | FC1=C(C=C(C=C1)F)/C=C/CO | C9H8F2O
